US07932271B2
N-[5-Chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-2-piperazin-1-ylethanesulfonamide
To an ethanol (5 ml) solution of t-butyl 4-[2-[[[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]sulfonyl]ethyl]piperazine-1-carboxylate (72 mg, 0.102 mmol) was added concentrated hydrochloric acid (1 ml). The resulting mixture was stirred at room temperature for 2 days, followed by concentration under reduced pressure. To the residue thus obtained was added a saturated aqueous solution of sodium bicarbonate. The resulting mixture was extracted with methylene chloride. The organic layer was dried over anhydrous sodium sulfate, and filtered. The filtrate was concentrated under reduced pressure. The residue thus obtained was washed with ether to give the title compound (23 mg, 0.038 mmol, 37%) as a white powder.

reactant | t-butyl 4-[2-[[[5-chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]amino]sulfonyl]ethyl]piperazine-1-carboxylate | 0.102 mmol, 72 mg | ClC=1C(=CC(=NC1)NS(=O)(=O)CCN1CCN(CC1)C(=O)OC(C)(C)C)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C29H32Cl2F2N4O6S2
reactant | hydrochloric acid | 1 ml | Cl | ClH
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | N-[5-Chloro-4-[(4-chlorophenylsulfonyl)(2,5-difluorophenyl)methyl]pyridin-2-yl]-2-piperazin-1-ylethanesulfonamide | 0.038 mmol, 23 mg, 37% | ClC=1C(=CC(=NC1)NS(=O)(=O)CCN1CCNCC1)C(C1=C(C=CC(=C1)F)F)S(=O)(=O)C1=CC=C(C=C1)Cl | C24H24Cl2F2N4O4S2
